Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
shellfish derived / Penicillins / allopurinol
 
Attending: ___
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ afib on coumadin, EESRD on TTS presenting after 
mechanical fall.

On the morning of ___, she tripped over a pumpkin.  She fell 
over a plant
and hit her head on a TV stand.  She denies any loss of
consciousness, palpitation, chest pain, shortness of breath,
dizziness or lightheadedness.  She was taken to OSH where she 
was
found to have a cervical odontoid fracture and a left patellar
fracture. She was transferred to ___ for further management.
 
 
Past Medical History:
Past medical history:
A. fib on Coumadin
CKD on ___
Hyperlipidemia
Hypothyroidism

Past surgical history:
Right breast lumpectomy
Left eye cataract surgery
Left hip replacement
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 97.8 74   145/78   18   99 room air
General: No acute distress
HEENT: Bilateral medial eye ecchymosis, left eye hematoma, left
parietal lack with 2 sutures, left forehead abrasion, c-collar 
in
place
CV: Irregularly irregular
Respiratory: Easy work of breathing
Abdomen: Soft, nondistended, nontender
Extremities: No edema

DISCHARGE PHYSICAL EXAM
Vitals: 97.7, BP: 131/69, HR: 67, RR: 18, O2 sat: 97% , O2 
delivery: Ra
General: No acute distress
HEENT: Bilateral medial eye ecchymosis, left eye hematoma, left
parietal lack with 2 sutures, left forehead abrasion, c-collar 
in
place
CV: Irregularly irregular
Respiratory: Easy work of breathing
Abdomen: Soft, nondistended, nontender, no guarding, no rebound
Extremities: No edema
 
Pertinent Results:
___ 06:45AM BLOOD WBC-8.2 RBC-3.50* Hgb-11.4 Hct-35.5 
MCV-101* MCH-32.6* MCHC-32.1 RDW-13.1 RDWSD-49.2* Plt ___
___ 05:37PM BLOOD Neuts-69.0 Lymphs-18.7* Monos-10.6 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-5.12 AbsLymp-1.39 
AbsMono-0.79 AbsEos-0.06 AbsBaso-0.03
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD Glucose-101* UreaN-41* Creat-5.3*# Na-135 
K-4.4 Cl-96 HCO3-23 AnGap-16
___ 06:45AM BLOOD Calcium-8.6 Phos-5.2* Mg-2.0
___ 06:45AM BLOOD

Imaging:
Left patellar xray:
"1. Possible avulsion fracture from the medial aspect of the
patella best seen on the patellar sunrise view, adjacent soft
tissue contusion.
2. Chondrocalcinosis."

MRI cspine:
"Type 2 displaced dens fracture.
Posterior disc protrusion and hypertrophic ligamentum flavum
resulting in severe spinal canal narrowing at C3-C4 effacing the
thecal sac. Marked cervical lordosis and thickened ligamentum
flavum resulting in marked effacement of the thecal sac
posteriorly."

CT head without contrast: ___
"There is significant frontal area subgaleal hematoma.  This is
more prominent toward the left.  This extends across the 
midline.
There is no evidence of underlying skull fracture.  The
ventricles and sulci are prominent consistent with atrophy. 
There are white matter lucencies consistent with small vessel
disease.  There is an extra-axial calcification in the anterior
interhemispheric area more toward the right.  This likely
represents incidental meningioma.  There is no evidence of
significant midline shift.  There is no evidence of
hydrocephalus.  Review of the bone window views demonstrate no
evidence of fracture."

CT cervical spine without contrast ___
"1.  Type II/type III fracture of the odontoid process.  This
fracture is slightly displaced
2.  Mild compression of the superior endplate of T2.  This is 
not
entirely included on the cervical spine CT.  Age of this is
difficult to determine on the current CT."

 
Brief Hospital Course:
Ms ___ was admitted to the Acute Care Surgery/Trauma Surgery 
service following her fall. She was found to have an odontoid 
fracture (acute dens T2 fx) and T2 fx (potentially old) and 
small medial left patellar fracture.

Orthopedic Surgery and Neurosurgery Spine were consulted for 
these injuries. Orthopedic Surgery recommended weight bearing as 
tolerated and elevation. She was instructed to follow up as 
needed in ___ trauma clinic. For her odontoid fracture, 
Neurosurgery Spine recommended a c-collar at all times with 
follow up in ___ weeks. This appointment was arranged for Ms 
___.

While on the floor, she remained hemodynamically stable and her 
pain was well controlled. Her Coumadin was restarted on hospital 
day 1. Renal was consulted for dialysis and she was dialyzed 
twice while inpatient. She was found to have a urinary tract 
infection and was started on oral ciprofloxacin; the 3 day 
course was completed on the day of discharge. Physical Therapy 
evaluated her and cleared her for discharge home with services.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home with services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
Atorvastatin 10 mg
Synthroid 25 MCG
Coumadin 2.5, 5 mg 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Ciprofloxacin HCl 250 mg PO Q24H 
RX *ciprofloxacin HCl 250 mg 1 tablet(s) by mouth once Disp #*1 
Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  Levothyroxine Sodium 25 mcg PO DAILY  
5.  ___  MD to order daily dose PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Small medial left patellar fracture
C-spine fracture of odontoid 
T2 compression fracture 
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a fall. You were found to have 
a fracture in your cervical spine and a left knee cap fracture. 
The Neurosurgery team was consulted and recommended 
non-operative management of the cervical fracture, they 
recommend wearing a hard cervical collar at all times and 
follow-up as an outpatient in 4 weeks. The Orthopedic surgery 
team was consulted for the patellar fracture and likewise 
recommended non-operative management and weight bearing as 
tolerated. You have worked with Physical therapy and are now 
cleared for discharge home with home ___ to continue your 
recovery.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids
 
Followup Instructions:
___